US06960575B2
Methyl (2RS)-2-(2-oxo-2-phenylethyl)aminoisovalerate (Reference compound No. 46-1)
Diisopropylethylamine (7.66 ml) and 2-bromoacetophenone (4.2 g) are added to a suspension of DL-valine methyl ester hydrochloride (3.36 g, Reference compound No. 45-1) in methylene chloride (100 ml), and the mixture is refluxed for four days. The reaction mixture is allowed to stand at room temperature, diethyl ether is added to the mixture, and the whole is extracted with 0.1 N hydrochloric acid. Sodium hydrogencarbonate is added to the extract to basify the system, and the whole is extracted with ethyl acetate. The organic layer is washed with saturated brine and dried over magnesium sulfate. The organic layer is concentrated under reduced pressure to give the titled reference compound (4.92 g).

reactant | Diisopropylethylamine | 7.66 ml | C(C)(C)N(CC)C(C)C | C8H19N
reactant | 2-bromoacetophenone | 4.2 g | BrCC(=O)C1=CC=CC=C1 | C8H7BrO
reactant | DL-valine methyl ester hydrochloride | Cl.COC(C(N)C(C)C)=O
reactant | diethyl ether | C(C)OCC | C4H10O
solvent | methylene chloride | 100 ml | C(Cl)Cl | CH2Cl2
product | Methyl (2RS)-2-(2-oxo-2-phenylethyl)aminoisovalerate | 4.92 g | O=C(CNC(C(=O)OC)C(C)C)C1=CC=CC=C1 | C14H19NO3
